US05576343
10.0 g of 5-bromo-2-hydroxy-3-methoxybenzaldehyde was dissolved in 39 ml of N,N-dimethylformamide, and the resulting solution was mixed with 11.9 g of anhydrous potassium carbonate and stirred at room temperature. 5.0 g of chloroacetone was added dropwise to the above reaction solution at the same temperature, followed by additional 1 hour of stirring at an elevated temperature of 80° C. The resulting reaction solution was diluted with ethyl acetate and adjusted to pH 2 with concentrated hydrochloric acid, and the resulting organic layer was collected. The organic layer was dried to distill off the solvent, and the resulting residue was purified by silica gel column chromatography, thereby obtaining 4.0 g of 2-acetyl-5-bromo-7-methoxybenzofuran.

reactant | 5-bromo-2-hydroxy-3-methoxybenzaldehyde | 10.0 g | BrC=1C=C(C(=C(C=O)C1)O)OC | C8H7BrO3
reactant | potassium carbonate | 11.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetone | 5.0 g | ClCC(C)=O | C3H5ClO
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 39 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-acetyl-5-bromo-7-methoxybenzofuran | 4.0 g | C(C)(=O)C=1OC2=C(C1)C=C(C=C2OC)Br | C11H9BrO3
